US04771058
3-(5-Bromo-3-methylpyrid-2-ylamino)propylamine (1.0 g) was reacted with 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (0.65 g) in methanol for 6 hours. Methylamine in ethanol (15 ml) was added and stirred for 2 hours. After evaporation the residue was recrystallised from a mixture of acetonitrile and ether and then from ethanol to yield 4-methylamino-3-[3-(5-bromo-3-methylpyrid-2-ylamino)propylamino]-1,2,5-thiadiazole-1-oxide (0.37 g, 25%), m.p. 211°-212° C.

reactant | 3-(5-Bromo-3-methylpyrid-2-ylamino)propylamine | 1.0 g | BrC=1C=C(C(=NC1)NCCCN)C | C9H14BrN3
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 0.65 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | Methylamine | CN | CH5N
solvent | methanol | CO | CH4O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-methylamino-3-[3-(5-bromo-3-methylpyrid-2-ylamino)propylamino]-1,2,5-thiadiazole-1-oxide | 0.37 g, 25% | CNC=1C(=NS(N1)=O)NCCCNC1=NC=C(C=C1C)Br | C12H17BrN6OS
